US09233979B2
Step 4: Synthesis of (S)-2-methoxy-N,N-bis(4-methoxybenzyl)-2-methyl-1-phenylpropan-1-amine
At 0° C., to a suspension of NaH (0.13 g, 2.96 mmol) in anhydrous THF (5 mL), was added a solution of (S)-1-(bis(4-methoxybenzyl)amino)-2-methyl-1-phenylpropan-2-ol (1.0 g, 2.47 mmol) in anhydrous THF (10 mL). After 15 min, MeI (0.55 g, 3.71 mmol) was added and the contents were heated to reflux. After 8 h, the reaction was brought back to ambient temperature, quenched carefully with ice cold H2O (10 mL), and the organic contents were extracted with EtOAc (3×25 mL). The combined organic extracts were washed with brine (1×20 mL), dried over Na2SO4, concentrated to afford the title compound. H1NMR (ppm, 400 MHz, CD3OD) δ 7.45-7.44 (m, 2H), 7.37-7.34 (m, 2H), 7.33-7.28 (m, 5H), 6.88-6.86 (m, 4H), 4.20 (s, 1H), 3.78 (s, 6H), 3.25 (s, 4H), 2.81 (s, 3H), 1.4 (s, 3H), 0.81 (s, 3H). MS ES+APCI calc'd. for C27H33NO3 [M+H]+ 420. Found 420.

reactant | NaH | 2.96 mmol, 0.13 g | [H-].[Na+]
reactant | (S)-1-(bis(4-methoxybenzyl)amino)-2-methyl-1-phenylpropan-2-ol | 2.47 mmol, 1.0 g | COC1=CC=C(CN([C@H](C(C)(O)C)C2=CC=CC=C2)CC2=CC=C(C=C2)OC)C=C1 | C26H31NO3
reactant | MeI | 3.71 mmol, 0.55 g | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-2-methoxy-N,N-bis(4-methoxybenzyl)-2-methyl-1-phenylpropan-1-amine | COC([C@@H](N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)C1=CC=CC=C1)(C)C | C27H33NO3
